US07718692B2
B. 3-H-Imidazole-4-carboxylic acid (4-hydroxy-phenyl)-amide.
A solution of 3-H-imidazole-4-carboxylic acid (4-benzyloxyphenyl)amide. (3.3 g, 11.2 mmol) in glacial acetic acid (70 mL) was hydrogenated (60 psi) over g of 10% palladium on carbon (0.3 g) at 25° C. for 18 hours. The catalyst was removed by filtration, and the solvent was evaporated in vacuo. The residue was stirred with NaHCO3 solution and the solid collected. There was obtained 2.4 g (100% yield) of the title compound as a yellow solid. MS m/z 204 (MH+). 1 H NMR(DMSO-d6) δ 6.7 (dd, 2H), 7.5 (dd, 2H), 7.7 (s, 1H), 7.8 (s, 1H), 9.1 (s, 1H), 9.6 (s, 1H) and 12.5 (s, 1H).

reactant | 3-H-imidazole-4-carboxylic acid (4-benzyloxyphenyl)amide | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC(=O)C=1NC=NC1 | C17H15N3O2
solvent | acetic acid | 70 mL | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 0.3 g | [Pd] | Pd
product | 3-H-Imidazole-4-carboxylic acid (4-hydroxy-phenyl)-amide | 2.4 g, 100% yield | OC1=CC=C(C=C1)NC(=O)C=1NC=NC1 | C10H9N3O2
